US07115611B2
F] [4-tert-Butoxycarbonylamino-2-(3-methoxy-propyl)-phenoxy-acetic acid ethyl ester
1.68 g (6.28 mmol) of the above prepared [4-amino-2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester was dissolved in 7 ml of THF, treated with 1.646 g (1.2 eq.) of di-tert-butyl dicarbonate, and refluxed for 1 h. After cooling, the reaction mixture was poured onto crashed ice/AcOEt, the organic layer washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=75/25) afforded 2.22 g of the title compound as light brown oil.

reactant | [4-amino-2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N)CCCOC)=O | C14H21NO4
reactant | di-tert-butyl dicarbonate | 1.646 g, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 4-tert-Butoxycarbonylamino-2-(3-methoxy-propyl)-phenoxy-acetic acid ethyl ester | 2.22 g | C(C)OC(COC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)CCCOC)=O | C19H29NO6
